US07700641B2
A. Synthesis of 4,7-dichloro-1-pentyl-1H-indole-2,3-dione
To a mixture of sodium hydride (0.17 g, 6.94 mmol, 60% dispersion in mineral oil) in anhydrous N,N-dimethylformamide (5.00 mL) was added a solution of 4,7-dichloro-1H-indole-2,3-dione (1.00 g, 4.60 mmol) in N,N-dimethylformamide (5.00 mL) at 0° C. The brown reaction mixture was stirred for 0.5 h followed by the addition of a solution of 1-bromopentane (0.84 g, 5.55 mmol) in anhydrous N,N-dimethylformamide (5.00 mL). The reaction mixture was stirred at ambient temperature for 16 h and poured into wet ethyl ether (30.0 mL). After the organic layer was separated, it was washed with water (2×20.0 mL), dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The gummy residue was dried under vacuum and the solid was triturated with ether to give the title compound (0.98 g, 98%): MS (ES+) m/z 286.2 (M+1).

reactant | sodium hydride | 6.94 mmol, 0.17 g | [H-].[Na+]
reactant | 4,7-dichloro-1H-indole-2,3-dione | 4.60 mmol, 1.00 g | ClC1=C2C(C(NC2=C(C=C1)Cl)=O)=O | C8H3Cl2NO2
reactant | 1-bromopentane | 5.55 mmol, 0.84 g | BrCCCCC | C5H11Br
reactant | ethyl ether | 30.0 mL | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 5.00 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5.00 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5.00 mL | CN(C=O)C | C3H7NO
product | 4,7-dichloro-1-pentyl-1H-indole-2,3-dione | 0.98 g, 98% | ClC1=C2C(C(N(C2=C(C=C1)Cl)CCCCC)=O)=O | C13H13Cl2NO2
